tb_bias_sweep.cir - find the Vbe-multiplier resistor that centres Iq on 15 mA
* Sweeps R130 (the collector-base leg of the bias spreader) and reports the
* resulting Class A quiescent current, measured as the current in R136 (the
* NPN output emitter resistor). The hand calculation got this wrong twice;
* this deck is the arbiter.
* NOTE: the winning value must then be written back into
* circuits/preamp/gain_block.py - that file, not this deck, is the topology.

.include /Users/roberto/EDA/.claude/worktrees/preamp-fase1/spice/preamp/placeholder_devices.lib
.include /Users/roberto/EDA/.claude/worktrees/preamp-fase1/spice/preamp/gain_block_flat.inc

VPP VPLUS 0 DC 15
VMM VMINUS 0 DC -15
VIN IN 0 DC 0

CSTRAY RG 0 15p
RLEAK  RG 0 1G

RISO  OUT OUTA 47
COUT  OUTA JACK 4.7u
RBLEED JACK 0 220k
RLOAD JACK 0 100k

.control
foreach rval 1500 1600 1650 1690 1740 1780 1870
  alter r130 = $rval
  op
  echo "R130 = $rval ohm"
  print @r136[i] @q134[ic] v(nx) v(ny)
end
.endc

.end
